US06087359
The N-[[4-(cyclohexylthio)phenyl]sulfonyl]glycine, 1,1-dimethylethyl ester, from Example 5b (3.34 mmol, 1.145 g), dried 325 mesh K2CO3 (13.4 mmol, 1.84 g), N-(chloroethyl)morpholine (10 mmol, 1.86 g), and N,N-dimethyacetamide (13 mL) were combined and heated at 60° C. under an inert atmosphere for 16 hours, then an additional 4 hours at 80° C. Water (40 mL) was added, and the mixture was extracted with ethyl acetate (100 mL, then 50 mL). The combined organic phases were dried (MgSO4), filtered through a silica plug, concentrated, and subjected to chromatography (ethyl acetate:toluene 1:1), to afford N-[[4-(cyclohexylthio)phenyl]phenyl]sulphonyl]-N-[2-(4-morpholinyl)ethyl]-glycine, 1,1-dimethylethyl ester (954 mg, 57%) as an oil. The structure was verified spectroscopically. MS MH+ calcd. for C24H38N2O5S2 : 499, found: 499. Elemental anal. calc'd for C24H38N2O5S2.0.25H2O: C, 57.29; H, 7.71; N, 5.57. Found: C, 57.32; H, 8.21; N, 5.27.

reactant | N-[[4-(cyclohexylthio)phenyl]sulfonyl]glycine, 1,1-dimethylethyl ester | C1(CCCCC1)SC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OC(C)(C)C | C18H27NO4S2
reactant | K2CO3 | 13.4 mmol, 1.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(chloroethyl)morpholine | 10 mmol, 1.86 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | N,N-dimethyacetamide | 13 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | 40 mL | O | H2O
product | N-[2-(4-morpholinyl)ethyl]-glycine, 1,1-dimethylethyl ester | 954 mg, 57% | N1(CCOCC1)CCNCC(=O)OC(C)(C)C | C12H24N2O3
